US07696240B2
7-Fluoro-4-methyl-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid
Using general procedure B, 7-fluoro-4-methyl-1H-indole-2-carboxylic acid ethyl ester (Lit. 8) was coupled with 1-bromomethyl-naphthalene and the product obtained was hydrolyzed to give the title compound as a white solid. MS: 332.0 ([M−H]−).

reactant | 7-fluoro-4-methyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=C(C=CC(=C2C1)C)F | C12H12FNO2
reactant | 1-bromomethyl-naphthalene | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
product | 7-Fluoro-4-methyl-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid | FC=1C=CC(=C2C=C(N(C12)CC1=CC=CC2=CC=CC=C12)C(=O)O)C | C21H16FNO2
